US07335778B2
35.34 g of the compound obtained in Example 5, 121 ml of mesitylene and 116.1 g of methanesulfonic acid were heated at an inner temperature of 130° C. By setting a reaction starting time when the mixture reached to 125° C., the mixture was stirred at 128° C. to 133° C. for 4 hours, disappearance of monobenzylbiotin was confirmed by high performance liquid chromatography. The reaction mixture was cooled to 80° C., 30 ml of acetic acid was added thereto, and methanesulfonic acid layer was added dropwise to 710 ml of purified water. The mesitylene layer was separated, ice-cooled for 1 hour, and then, crude crystal was collected by filtration, and washed with 200 ml of water, and then, with methanol until black color of the washed solution disappeared. The crystal was dried at 50° C. by blowing air overnight to give 15.89 g of crude (+)-biotin.

reactant | mesitylene | 121 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | methanesulfonic acid | 116.1 g | CS(=O)(=O)O | CH4O3S
reactant | monobenzylbiotin | C(C1=CC=CC=C1)C(C(O)=O)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C17H22N2O3S
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 710 ml | O | H2O
product | (+)-biotin | 15.89 g | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
